US07141596B2
Step 4. Methyl (2S)-3-(3-bromo-4-iodophenyl)-2-[(tert-butoxycarbonyl)amino-]propanoate
Methyl (2S)-3-(4-amino-3-bromophenyl)-2-[(tert-butoxycarbonyl)amino]-propanoate (19.8 g, 53.0 mmol) suspended in 1 N aqueous hydrogen chloride (500 mL) was treated sequentially at 0° C. with sodium nitrite (3.66 g, 53.0 mmol) in water (75 mL) dropwise. After 15 minutes at 0° C., potassium iodide (8.81 g, 53.1 mmol) in water (75 mL) was added and the solution was heated at 40° C. for 15 minutes. The solution was quenched with saturated aqueous sodium thiosulfate solution (100 mL), and extracted with ethyl acetate (500 mL). The organic phase was washed with 0.1 N Hydrochloric acid solution (500 mL), saturated aqueous sodium bicarbonate solution (500 mL), and dried over sodium sulfate. Purification by silica gel chromatography (10–40% ethyl acetate/hexanes) afforded product as slightly yellow solid (18.7 g, 73%). 1H NMR (400 MHz, CD3OD): δ 7.80 (d, J=8.0 Hz, 1H), 7.55 (d, J=1.8 Hz, 1H), 6.92 (dd, J=8.0, 1.9 Hz), 4.36–4.29 (m, 1H), 3.71 (s, 3H), 3.10–2.79 (m, 1H), 1.37 (s, 9H); LCMS found for C15H19BrINO4Na (M+Na)+: m/z=506.

reactant | Methyl (2S)-3-(4-amino-3-bromophenyl)-2-[(tert-butoxycarbonyl)amino]-propanoate | 53.0 mmol, 19.8 g | NC1=C(C=C(C=C1)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C)Br | C15H21BrN2O4
reactant | sodium nitrite | 53.0 mmol, 3.66 g | N(=O)[O-].[Na+]
reactant | potassium iodide | 53.1 mmol, 8.81 g | [I-].[K+]
solvent | hydrogen chloride | 1 N, 500 mL | Cl | ClH
solvent | water | 75 mL | O | H2O
solvent | water | 75 mL | O | H2O
product | Methyl (2S)-3-(3-bromo-4-iodophenyl)-2-[(tert-butoxycarbonyl)amino-]propanoate | 18.7 g, 73% | BrC=1C=C(C=CC1I)C[C@@H](C(=O)OC)NC(=O)OC(C)(C)C | C15H19BrINO4
